US05084455
A mixture of 3.96 g of 4-amino-1H-indole, 70 ml of tetrahydrofuran, 5 g of 2-hydroxy-4-methoxy-benzoic acid and 6.2 g of dicyclohexycarbodiimide was refluxed for 24 hours and was evaporated to dryness under reduced pressure at 50° C. The residue was taken up in ethyl acetate and excess 4-amino-1H-indole was removed by washing with 2N hydrochloric acid. The mixture was evaporated to dryness under reduced pressure and the residue was taken up in ether and dried at 50° C. to obtain 7.1 g of 4-methoxy-2-hydroxy-N-(1H-indol-4-yl)-benzamide melting at 190° C.

reactant | 4-amino-1H-indole | 3.96 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | 2-hydroxy-4-methoxy-benzoic acid | 5 g | OC1=C(C(=O)O)C=CC(=C1)OC | C8H8O4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-methoxy-2-hydroxy-N-(1H-indol-4-yl)-benzamide | 7.1 g | COC1=CC(=C(C(=O)NC2=C3C=CNC3=CC=C2)C=C1)O | C16H14N2O3
